US08710256B2
4-Bromo-3,5-dimethylphenol (50.0 g, 0.25 mol from Aldrich 99%) and pyridine (250 mL), were added to a 3 necked, 2.0 L round bottomed flask equipped with addition funnel, mechanical stirrer and thermocouple. The resulting solution was cooled to 0° C. and trifluoromethanesulfonic anhydride (triflic anhydride) (80.5 g, 0.285 mol from Aldrich 99%) was added dropwise over a period of 2 hours. After the addition, the resulting mixture was maintained at 0° C. for 15 minutes, then left overnight at room temperature. After 16 hours the resulting mixture was cooled down in an ice bath and quenched with H2O (1.7 L), and EtOAc (1.7 L). The layers of the resulting biphasic mixture were separated and the organic layer was treated with HCl 2N (2×1.0 L), then rinsed once with water (1.0 L) and once with 50% brine. The organic layer was dried over Na2SO4, then concentrated to dryness by rotavapor to yield trifluoromethanesulfonic acid 4-bromo-3,5-dimethyl-phenyl ester as thick oil.

reactant | 4-Bromo-3,5-dimethylphenol | 0.25 mol, 50.0 g | BrC1=C(C=C(C=C1C)O)C | C8H9BrO
reactant | trifluoromethanesulfonic anhydride | 0.285 mol, 80.5 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 250 mL | N1=CC=CC=C1 | C5H5N
product | trifluoromethanesulfonic acid 4-bromo-3,5-dimethyl-phenyl ester | BrC1=C(C=C(C=C1C)OS(=O)(=O)C(F)(F)F)C | C9H8BrF3O3S
